US09120761B2
(b) Methyl 2-(2-((trimethylsilyl)ethynyl)phenyl)acetate (I10)
Methyl 2-(2-iodophenyl)acetate (I9) (4.65 g, 16.8 mmol), PdCl2(PPh3)2 (295 mg, 421 μmol) and Cu(I)I (80.0 mg, 421 μμmol) were placed into an oven dried reaction flask under nitrogen. (Trimethylsilyl)acetylene (2.80 mL, 20:2 mmol), dry degassed THF (20 mL) and triethylamine (20 mL) were added and the reaction mixture was stirred at room temperature for 16 hours. The volatiles were removed under reduced pressure to give a black residue which was adsorbed onto silica then chromatographed on silica gel (0-5% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I10) (4.63 g, 99%) as a light brown liquid; 1H NMR (400 MHz, CDCl3) δ 7.48 (dd, J=7.5, 0.8 Hz, 1H), 7.32-7.14 (m, 3H), 3.84 (s, 2H), 3.71 (s, 3H), 0.26 (s, 9H). LCMS Method C: rt 6.64 min.

reactant | Methyl 2-(2-iodophenyl)acetate | 16.8 mmol, 4.65 g | IC1=C(C=CC=C1)CC(=O)OC | C9H9IO2
reactant | (Trimethylsilyl)acetylene | 2 mmol, 2.80 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | PdCl2(PPh3)2 | 421 μmol, 295 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-(2-((trimethylsilyl)ethynyl)phenyl)acetate | C[Si](C)(C)C#CC1=C(C=CC=C1)CC(=O)OC | C14H18O2Si
